### ISSUE TITLE
reduced unfolding in simp leads reduces simp-power

### ISSUE THREAD

**Issue by tobiasgrosser** [leanprover/lean4#6446]
### Prerequisites

Please put an X between the brackets as you perform the following steps:

* [x] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [x] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [x] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

Before https://github.com/leanprover/lean4/commit/16bc6ebcb6753ebd53eea4e9fbb078744c33cbd2 was committed, `simp` unfolded definitions with all-constant inputs to a level that allowed relatively complex evaluators to fold away completely. I am unsure if this is desired and how to obtain a similar effect with the changed `simp` implementation.

```lean
universe u

inductive Circuit (α : Type u) : Type u
  | tru : Circuit α
  | fals : Circuit α
  | var : Bool → α → Circuit α
  | and : Circuit α → Circuit α → Circuit α
  | or : Circuit α → Circuit α → Circuit α
  | xor : Circuit α → Circuit α → Circuit α
deriving Repr

namespace Circuit
variable {α : Type u}

@[simp]
def eval : Circuit α → (α → Bool) → Bool
  | tru, _ => true
  | fals, _ => false
  | var b x, f => if b then f x else !(f x)
  | and c₁ c₂, f => (eval c₁ f) && (eval c₂ f)
  | or c₁ c₂, f => (eval c₁ f) || (eval c₂ f)
  | xor c₁ c₂, f => Bool.xor (eval c₁ f) (eval c₂ f)

def simplifyAnd : Circuit α → Circuit α → Circuit α
  | tru, c => c
  | c, tru => c
  | fals, _ => fals
  | _, fals => fals
  | c₁, c₂ => and c₁ c₂
instance : AndOp (Circuit α) := ⟨Circuit.simplifyAnd⟩

def simplifyOr : Circuit α → Circuit α → Circuit α
  | tru, _ => tru
  | _, tru => tru
  | fals, c => c
  | c, fals => c
  | c₁, c₂ => or c₁ c₂
instance : OrOp (Circuit α) := ⟨Circuit.simplifyOr⟩

def simplifyNot : Circuit α → Circuit α
  | tru => fals
  | fals => tru
  | xor a b => xor (simplifyNot a) b
  | and a b => or (simplifyNot a) (simplifyNot b)
  | or a b => and (simplifyNot a) (simplifyNot b)
  | var b a => var (!b) a
instance : Complement (Circuit α) := ⟨Circuit.simplifyNot⟩

def simplifyXor : Circuit α → Circuit α → Circuit α
  | fals, c => c
  | c, fals => c
  | tru, c => ~~~ c
  | c, tru => ~~~ c
  | c₁, c₂ => xor c₁ c₂
instance : Xor (Circuit α) := ⟨Circuit.simplifyXor⟩

open Sum

structure FSM (arity : Type) : Type 1 where
  ( α  : Type )
  ( nextBitCirc : Option α → Circuit (α ⊕ arity) )

def add : FSM Bool :=
  { α := Unit,
    nextBitCirc := fun a =>
      match a with
      | some () =>
             (Circuit.var true (inr true)  &&& Circuit.var true (inr false))
             ||| (Circuit.var true (inr true)  &&& Circuit.var true (inl ()))
             ||| (Circuit.var true (inr false) &&& Circuit.var true (inl ()))
      | none => Circuit.var true (inr true) ^^^
                Circuit.var true (inr false) ^^^
                Circuit.var true (inl ()) }

theorem add_nextBitCirc_some_eval :
    (add.nextBitCirc (some ())).eval =
      fun x => x (inr true) && x (inr false) || x (inr true)
        && x (inl ()) || x (inr false) && x (inl ()) := by
  /-
  simp only [Circuit.eval]
  Lean 4.16.0-nightly-2024-12-20
  Target: arm64-apple-darwin23.6.0 macOS

  ⊢ (fun x =>
      (((if True then x (inr true) else !x (inr true)) && if True then x (inr false) else !x (inr false)) ||
          (if True then x (inr true) else !x (inr true)) && if True then x (inl ()) else !x (inl ())) ||
        (if True then x (inr false) else !x (inr false)) && if True then x (inl ()) else !x (inl ())) =
    fun x => x (inr true) && x (inr false) || x (inr true) && x (inl ()) || x (inr false) && x (inl ())

  with
  Lean 4.16.0-nightly-2024-12-24
  Target: x86_64-unknown-linux-gnu
  simp has no effect

  -/
  simp only [Circuit.eval]
  simp -- closes the goal with 2024-12-20 but not 2024-12-24.
```

### Steps to Reproduce

1. Copy file in lean editor
2. Observe that goal is not closed

**Expected behavior:** 

It would be nice if the goal would be closed.

**Actual behavior:** 

The goal is not closed and it is not even possible to unfold `Circuit.eval`. However, unfolding `Circuit.eval` was also not possible with the old version.

The degree of unfolding `simp` by default was impressive beforehand, and I am unsure how it was done. I tried to use `simp +ground`:

```lean
theorem add_nextBitCirc_some_eval :
    (add.nextBitCirc (some ())).eval =
      fun x => x (inr true) && x (inr false) || x (inr true)
        && x (inl ()) || x (inr false) && x (inl ()) := by
  /-
  ((((var true (inr true)).simplifyAnd (var true (inr false))).simplifyOr
          ((var true (inr true)).simplifyAnd (var true (inl PUnit.unit)))).simplifyOr
      ((var true (inr false)).simplifyAnd (var true (inl PUnit.unit)))).eval
  -/
  simp +ground only [Circuit.eval, add]
  /-
  failed to rewrite using equation theorems for 'Circuit.eval'. Try rewriting with 'Circuit.eval.eq_def'.
  -/
  rw [Circuit.eval]
```

which does something sensible, but I still cannot unfold Circuit.eval.
### Versions

Lean 4.16.0-nightly-2024-12-20
Target: arm64-apple-darwin23.6.0 macOS

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by tobiasgrosser** [comment]
This issue has been discussed and resolved in https://leanprover.zulipchat.com/#narrow/channel/270676-lean4/topic/Magic.20simp.20unfolding/near/490756711.
